US08198285B2
tert-butyl [3-(4-bromophenyl)propyl](3-methoxypropyl)carbamate (500 g) and acetonitrile (4.3 L) were charged into reactor 1 along with bis(pinacolato)diboron (394.4 g), potassium acetate (190.5 g), PCy3 (23.2 g) and Pd(OAc)2 (8.7 g). The vessel was swing purged with nitrogen three times. The mixture was warmed to 85-90° C. for 16 h then analysed for complete reaction (tert-butyl [3-(4-bromophenyl)propyl](3-methoxypropyl)carbamate <0.5%). The mixture was cooled to 25° C., filtered and the filtrate was concentrated to remove MeCN. MTBE (3 L) was charged and MTBE layer washed with water (3×1.5 L). The MTBE layer was concentrated to give crude product. The crude product was further purified by silica gel column chromatography. (Petroleum ether:Ethyl acetate=1:0-40:1-10:1). tert-butyl (3-methoxypropyl){3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]propyl}carbamate was obtained as slightly yellow oil. (490.0 g)

reactant | tert-butyl [3-(4-bromophenyl)propyl](3-methoxypropyl)carbamate | 500 g | BrC1=CC=C(C=C1)CCCN(C(OC(C)(C)C)=O)CCCOC | C18H28BrNO3
reactant | bis(pinacolato)diboron | 394.4 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 190.5 g | C(C)(=O)[O-].[K+]
reactant | PCy3 | 23.2 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
catalyst | Pd(OAc)2 | 8.7 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | acetonitrile | 4.3 L | C(C)#N | C2H3N
product | tert-butyl (3-methoxypropyl){3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]propyl}carbamate | COCCCN(C(OC(C)(C)C)=O)CCCC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C24H40BNO5
